US05308830
Cyclopentylmethyl bromide (21 g; 0.13 mol) was added in one portion to 1,2,4-triazole-3-thiol (12.3 g; 0.12 mol) and sodium methoxide (7.1 g; 0.13 mol) in dry methanol (100 ml) under dry nitrogen. The mixture was stirred at room temperature for 3 days, refluxed for 3 h and evaporated. The residue was dissolved in ethyl acetate (200 ml) and water (100 ml), the organic phase separated, washed with water (100 ml), dried (Na2SO4), filtered and evaporated, to afford cyclopentylmethyl 1,2,4-triazol-3-yl sulfide (18.1 g; 82%) as a waxy, off-shite solid, m.p. 48°-55° C.

reactant | Cyclopentylmethyl bromide | 0.13 mol, 21 g | C1(CCCC1)CBr | C6H11Br
reactant | 1,2,4-triazole-3-thiol | 0.12 mol, 12.3 g | N1N=C(N=C1)S | C2H3N3S
reactant | sodium methoxide | 0.13 mol, 7.1 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | cyclopentylmethyl 1,2,4-triazol-3-yl sulfide | 18.1 g, 82% | N1N=C(N=C1)SCC1CCCC1 | C8H13N3S
